US04609736
Into 20 ml of dry DMF was dissolved 1.5 g (0.008 mole) of 3-carboxymethylrhodanine. To the solution was added 2.2 g (0.016 mole) of K2CO3 at a room temperature, and further 1 g (0.012 mole) of 2,2-dimethylpropanal was added dropwise at 60° C. After agitating at 60° C. for 30 minutes, the reaction mixture was poured into water. The resultant was adjusted to pH 4 with a dilute hydrochloric acid and then extracted with ethyl acetate. The extract was purified through a silica gel column and recrystallized from a mixed solvent of ethyl acetate and ethanol to give 1.3 g of 3-carboxymethyl-5-(2,2-dimethylpropylidene)rhodanine in the form of light yellow needle (yield: 63%).

reactant | 3-carboxymethylrhodanine | 0.008 mole, 1.5 g | C(=O)(O)CN1C(SCC1=O)=S | C5H5NO3S2
reactant | K2CO3 | 0.016 mole, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2-dimethylpropanal | 0.012 mole, 1 g | CC(C=O)(C)C | C5H10O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-carboxymethyl-5-(2,2-dimethylpropylidene)rhodanine | 1.3 g | C(=O)(O)CN1C(SC(C1=O)=CC(C)(C)C)=S | C10H13NO3S2
